US04699905
α-{3(S)-Benzyl-6(R)-[1(S)-carboxy-3-phenylpropylamino]-5-oxoperhydro-1,4-thiazepin-4-yl}acetic acid (Compound No. 18)
326 mg of α-{3(S)-benzyl-6(R)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-5-oxoperhydro-1,4-thiazepin-4-yl}acetic acid were hydrolyzed with aqueous sodium hydroxide in the same manner as described in Example 5, to give 225 mg of the title compound as a powder.

reactant | α-{3(S)-benzyl-6(R)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-5-oxoperhydro-1,4-thiazepin-4-yl}acetic acid | 326 mg | C(C1=CC=CC=C1)[C@H]1CSC[C@@H](C(N1CC(=O)O)=O)N[C@@H](CCC1=CC=CC=C1)C(=O)OCC | C26H32N2O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | α-{3(S)-Benzyl-6(R)-[1(S)-carboxy-3-phenylpropylamino]-5-oxoperhydro-1,4-thiazepin-4-yl}acetic acid | 225 mg | C(C1=CC=CC=C1)[C@H]1CSC[C@@H](C(N1CC(=O)O)=O)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C24H28N2O5S
